US07691867B2
A mixture of N-(4-nitro-1H-pyrazol-3-yl)acetamide (0.380 g, 2.25 mmol), 2-chloro-N-(3-fluorophenyl)acetamide (0.420 g, 2.25 mmol) and potassium carbonate (00.370 g, 2.7 mmol) in dimethyl formamide (10 ml) was heated at 50° C. for 1 hour. The mixture was filtered and the filtrate was evaporated. The residue was triturated with a mixture of 2% methanol in dichloromethane and then with diethyl ether to give 2-[3-(acetylamino)-4-nitro-1H-pyrazol-1-yl]-N-(3-fluorophenyl)acetamide

reactant | N-(4-nitro-1H-pyrazol-3-yl)acetamide | 2.25 mmol, 0.380 g | [N+](=O)([O-])C=1C(=NNC1)NC(C)=O | C5H6N4O3
reactant | 2-chloro-N-(3-fluorophenyl)acetamide | 2.25 mmol, 0.420 g | ClCC(=O)NC1=CC(=CC=C1)F | C8H7ClFNO
reactant | potassium carbonate | 2.7 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[3-(acetylamino)-4-nitro-1H-pyrazol-1-yl]-N-(3-fluorophenyl)acetamide | 55% yield | C(C)(=O)NC1=NN(C=C1[N+](=O)[O-])CC(=O)NC1=CC(=CC=C1)F | C13H12FN5O4
